Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Thrombocytopenia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M past medical history significant for colon cancer, 
hyperlipidemia and benign prostatic hypertrophy who is sent to 
the ED by his PCP for routine outpatient labs showing 
thrombocytopenia.

Patient reports bruises on his right elbow after a fall several 
weeks ago (when getting off a lobster boat), left forearm and 
leg.  Otherwise denies any other rashes on body.  Denies any 
fatigue.  Very active, does 30 sit ups per day, 15 push ups, and 
lifts 20 lbs weights in each hand with 30 reps daily.  Denies 
any hematuria or bleeding in gums.  No brbpr or melena.  No 
recent illness, denies sore throat, rhinorrhea or cough.  No 
fever or chills.  No weight loss or nightsweats.  Takes a full 
strength aspirin daily.  No new medications.  Had recent 
physical with routine blood work showing platelets of 10,000.    


Of note patient reports recent gout attack in left great toe 
treated with OTC topical cream (does not recall the name).     

ED: 97.8  78P  135/54  15  98%RA; cbc significant for platelets 
14k and negative hemolysis labs; heme reviewed smear - no 
schistocytes

ROS: 
- General: No fevers, chills, sweats, weight loss
- HEENT: no changes in vision or hearing, no rhinorrhea, nasal 
congestion, headaches, sore throat
- Lungs: no cough, shortness of breath, dyspnea on exertion
- Cardiac: no chest pain, pressure, palpitations, orthopnea, PND
- GI: no abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena
- GU: no dysuria, hematuria, urgency, frequncey
- MSK: no arthralgias or myalgias
- Neuro: no weakness, numbness, seizures, difficulty speaking, 
changes in memory. 
- Skin: no rash or pruritis
- Psychiatry: no depression or suicidal ideation

 
Past Medical History:
Colon cancer s/p colectomy ___
Hyperlipidemia
BPH
 
Social History:
___
Family History:
mother - deceased from PE
father - deceased from ___ accident
unclear if history of cancer
 
Physical Exam:
VS 96.8  76P  143/81  18RR  98%RA
Gen: alert, NAD, pleasant, talkative, resting comfortably in bed
Heent: anicteric, eomi, perrl, op clear s lesions, mmm
Neck: supple, no LAD, no JVD
Cv: +s1, s2  -m/r/g
Pulm: clear bilaterally
Abd: soft, nt, nd, +bs; ? splenomegaly - difficult to assess due 
to abdominal obesity
Extr: no edema, 2+ dp/pt, toes with dusky appearance but warm to 
touch
Neuro: cn ___ grossly intact, no focal deficits
Skin: + bruise right elbow, left forearm and left leg
Rectal: guaiac negative in ED
 
Pertinent Results:
___ 08:50PM BLOOD WBC-5.2 RBC-3.79* Hgb-11.8* Hct-34.4* 
MCV-91 MCH-31.2 MCHC-34.3 RDW-14.0 Plt Ct-14*#
___ 04:40AM BLOOD WBC-4.9 RBC-3.58* Hgb-11.6* Hct-33.1* 
MCV-92 MCH-32.2* MCHC-34.9 RDW-13.6 Plt Ct-11*
___ 06:55AM BLOOD WBC-4.0 RBC-3.94* Hgb-12.7* Hct-36.3* 
MCV-92 MCH-32.3* MCHC-35.0 RDW-13.6 Plt Ct-18*#
 
Brief Hospital Course:
1. Thrombocytopenia / likely ITP: Hematology recommended bone 
marrow biopsy to further characterize but patient refused. If 
this is ITP, an underlying cause is not clear though patient 
attributed to aspirin therapy. Started prednisone inpatient with 
plan to see hematology <1 week after discharage. 

2. Chronic kidney disease, stage 3: Stable
3. Hyperlipidemia: Continued atorvastatin 

 
Medications on Admission:
ASA 325mg daily
Lipitor 10mg daily
Flomax 0.4mg daily - self d/c'ed
 
Discharge Medications:
1. atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. prednisone 20 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily): 90 mg total.
Disp:*28 Tablet(s)* Refills:*0*
3. prednisone 10 mg Tablet Sig: One (1) Tablet PO once a day: 90 
mg total.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Thrombocytopenia, likely ITP
2. Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with thrombocytopenia (low platelets). This is 
likely due something called ITP. 

While your platelets remain low, you are at increased risk for 
bleeding. The predisone medication your have been prescribed may 
help increase your platelet numbers. This should be taken every 
day, as prescribed, until you follow-up with the hematology 
doctors.
 
Followup Instructions:
___